US06635655B1
4-Benzyloxy-2-methyl-6-(3-phenyl-propoxy)-benzoic Acid
Ethyl-4-benzyloxy-2-methyl-6-(3-phenyl-propoxy)-benzoate (0.57 g, 1.4 mmol) and 10 N sodium hydroxide (1.4 mL, 14 mmol) are combined in ethanol (6 mL) and heated at reflux for 6 hours. The solvent is removed in vacuo and dichloromethane is added to the residue. Then 1 N hydrochloric acid is added to acidify the mixture to pHI. The aqueous layer is extracted once with dichloromethane and the combined organic layers washed once with water. The organic layer is dried over magnesium sulfate and the solvent removed in vacuo to give the title compound as a tan solid. The solid is recrystallized from ethyl acetate/petroleum ether to provide an analytically pure sample; m.p. 109-111° C., 1H NMR (300 MHz, CDCl3) δ 7.18-7.41 (m, 10H), 6.55 (d, 1H), 6.41 (d, 1H), 5.07 (s, 2H), 4.10 (t, 2H), 2.81 (t, 2H), 2.62 (s, 3H), 2.16-2.21 (m, 2H); MS (EI) 376 (M)+.

reactant | Ethyl-4-benzyloxy-2-methyl-6-(3-phenyl-propoxy)-benzoate | 1.4 mmol, 0.57 g | C(C)OC(C1=C(C=C(C=C1OCCCC1=CC=CC=C1)OCC1=CC=CC=C1)C)=O | C26H28O4
reactant | sodium hydroxide | 14 mmol, 10 N, 1.4 mL | [OH-].[Na+]
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 4-Benzyloxy-2-methyl-6-(3-phenyl-propoxy)-benzoic Acid | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)O)C(=C1)OCCCC1=CC=CC=C1)C | C24H24O4
